US08809369B2
A mixture solution of 2′-(3-bromo-phenyl)-2′,3′-dihydro-1′H-spiro[cyclopentane-1,4′-quinoline]-6′-carboxylic acid methyl ester (600 mg, 1.5 mmol), morpholine (2.6 mL, 29.4 mmol), copper(I) iodide (340 mg, 1.8 mmol), N,N-dimethylglycine hydrochloride (340 mg, 2.4 mmol), and potassium carbonate (1.2 g, 9.0 mmol) in dimethyl sulfoxide (6.5 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature. The reaction mixture was extracted with ethyl acetate (200 mL×2), washed with saturated aqueous ammonium chloride solution (50 mL×3) and brine (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 30-50% ethyl acetate in petroleum ether) to afford 2′-(3-morpholinophenyl)-2′,3′-dihydro-1′H-spiro[cyclopentane-1,4′-quinoline]-6′-carboxylic acid methyl ester (487.2 mg, 80%) as a white solid: MS (ESI) M+1=407.0.

reactant | 2′-(3-bromo-phenyl)-2′,3′-dihydro-1′H-spiro[cyclopentane-1,4′-quinoline]-6′-carboxylic acid methyl ester | 1.5 mmol, 600 mg | COC(=O)C=1C=C2C3(CC(NC2=CC1)C1=CC(=CC=C1)Br)CCCC3 | C21H22BrNO2
reactant | morpholine | 29.4 mmol, 2.6 mL | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylglycine hydrochloride | 2.4 mmol, 340 mg | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 9.0 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 6.5 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 1.8 mmol, 340 mg | [Cu]I
product | 2′-(3-morpholinophenyl)-2′,3′-dihydro-1′H-spiro[cyclopentane-1,4′-quinoline]-6′-carboxylic acid methyl ester | 487.2 mg, 80% | COC(=O)C=1C=C2C3(CC(NC2=CC1)C1=CC(=CC=C1)N1CCOCC1)CCCC3 | C25H30N2O3
